US08685992B2
To a solution of hydroxylamine hydrochloride (0.48 g, 7.5 mmol) and phenolphtalein (1 mg) in methanol (1.25 ml) under inert atmosphere, an aliquot of sodium methoxide in methanol (taken from a solution of 2.70 g, 50 mmol of sodium methoxide in 10 ml of methanol) was added dropwise until a permanent pink color was observed. Methyl 4-[({[5-(3-furyl)-3-(4-hydroxyphenyl)-1H-pyrrol-2-yl]carbonyl}amino)methyl]benzoate (0.52 g, 1.25 mmol) and sodium methoxide in methanol (12.5 mmol, 2.46 ml of the previously prepared solution) were subsequently added. The reaction mixture was stirred for 26 h, the formation of a dense precipitate being observed. Water (3 ml) was added, and this solution was acidified with glacial acetic acid and extracted with CH2Cl2 (3×10 ml). The combined organic fractions were dried over Na2SO4 and evaporated under reduced pressure, to obtain 0.49 g of 5-(3-furyl)-N-{4-[(hydroxyamino)carbonyl]benzyl}-3-(4-hydroxyphenyl)-1H-pyrrole-2-carboxamide: Yield 94%; m.p. 159-160° C.; IR 3406, 3243, 1626, 1526, 1268 cm−1; 1H-NMR (500 MHz, δ ppm, DMSO-d6) 11.50 (s, 1H), 11.13 (s, 1H), 9.36 (s, 1H), 8.94 (s, 1H), 8.13 (s, 1H), 7.69 (d, J=8.1 Hz, 2H), 7.67 (tb, 1H), 7.34 (t, J=5.7 Hz, 1H), 7.30 (d, J=8.0 Hz, 2H), 7.26 (d, J=8.4 Hz, 2H), 6.93 (s, 1H), 6.74 (d, J=8.4 Hz, 2H), 6.37 (d, J=2.5 Hz, 1H), 4.41 (d, J=5.8 Hz, 2H); 13C-NMR (126 MHz, δ ppm, DMSO-d6) 164.0, 161.2, 156.3, 143.6, 142.6, 138.5, 131.2, 129.9, 127.4; 127.1, 126.8, 125.9, 121.3, 118.2, 115.1, 108.7, 108.3, 42.0.

reactant | hydroxylamine hydrochloride | 7.5 mmol, 0.48 g | Cl.NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium methoxide | 50 mmol, 2.70 g | C[O-].[Na+]
reactant | Methyl 4-[({[5-(3-furyl)-3-(4-hydroxyphenyl)-1H-pyrrol-2-yl]carbonyl}amino)methyl]benzoate | 1.25 mmol, 0.52 g | O1C=C(C=C1)C1=CC(=C(N1)C(=O)NCC1=CC=C(C(=O)OC)C=C1)C1=CC=C(C=C1)O | C24H20N2O5
reactant | Water | 3 ml | O | H2O
solvent | methanol | 1.25 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
catalyst | phenolphtalein | 1 mg | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(3-furyl)-N-{4-[(hydroxyamino)carbonyl]benzyl}-3-(4-hydroxyphenyl)-1H-pyrrole-2-carboxamide | 0.49 g, Yield 94% | O1C=C(C=C1)C1=CC(=C(N1)C(=O)NCC1=CC=C(C=C1)C(=O)NO)C1=CC=C(C=C1)O | C23H19N3O5
